US07101892B2
3-Benzenesulfonyl-3-methyl-butan-1-ol
A solution of n-butyllithium in cyclohexanes (1.8M, 35.1 ml; 63.18 mmol) was added dropwise to a stirred solution of isopropyl phenyl sulphone (9.95 g, 54 mmol) in tetrahydrofuran (100 ml) keeping the temperature of the mixture below −60° C. The mixture was stirred for 30 min. and ethylene oxide was passed through the reaction mixture for 10 min. The mixture was warmed up to −40° C. for 30 min., then quenched with sat. aqueous NH4Cl and extracted into ethyl acetate. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified on silica gel (i-hexane:ethyl acetate) to give the title compound (12.3 g, 99%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | isopropyl phenyl sulphone | 54 mmol, 9.95 g | C1(=CC=CC=C1)S(=O)(=O)C(C)C | C9H12O2S
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Benzenesulfonyl-3-methyl-butan-1-ol | 12.3 g, 99% | C1(=CC=CC=C1)S(=O)(=O)C(CCO)(C)C | C11H16O3S
